US05051422
4-(4-Ethoxyphenyl)-N-(2-methoxyethyl)-N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-1-(phenylmethyl)-2-piperazinemethanamine
In a manner similar to Preparation 2, react 4-(4-ethoxyphenyl)-N-(2-methoxyethyl)-N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-1-(phenylmethyl)-2-piperazinecarboxamide with lithium aluminum hydride to obtain the title compound.

reactant | 4-(4-ethoxyphenyl)-N-(2-methoxyethyl)-N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-1-(phenylmethyl)-2-piperazinecarboxamide | C(C)OC1=CC=C(C=C1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N(C1=CC=C(C=C1)N1C(=NC=C1)C)CCOC | C33H39N5O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-(4-Ethoxyphenyl)-N-(2-methoxyethyl)-N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-1-(phenylmethyl)-2-piperazinemethanamine | C(C)OC1=CC=C(C=C1)N1CC(N(CC1)CC1=CC=CC=C1)CN(C1=CC=C(C=C1)N1C(=NC=C1)C)CCOC | C33H41N5O2
